datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.CO[C:12]1=[C:13]([B-](F)(F)F)[S:14][CH:10]=[CH:11]1>>CO[C:12]1=[CH:11][CH:10]([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=C(F)C(F)=C(F)C(F)=C3F)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[S+:14]=[C:13]1[B-](F)(F)F 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]([O-:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11](=[O:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[N+](CC)(CC)[BH-:11](Br)[H:10].FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[N+](CC)(CC)[BH:11]Br.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC[O:62][Si:11]([H:10])([O:72]CC)[O:82]CC.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>CC[O:62][Si+:11]([O:72]CC)[O:82]CC.C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([H:10])[C:31]2=[C:32]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
CC[O:82][C:71]([N-:10][C:61](C)=[O:62])=[O:72].CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([N:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)CC(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]1)[C:61](C)=[O:62])=[O:72] 10=20
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].[C-:10]#[N:61]>>CC(C)(C)[C:22](=[CH:21][CH:20]([C:10]#[N:61])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[Si:62](C)(C)[Si:63](C)(C)C.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>C[C+:11]([CH2:10][CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33])[Si:62](C)(C)[Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH2-:10][N+:61]#[N:62]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][N+:61]#[N:62])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]2)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O-:10])=[C:62](\C)C2=CC=CC=C2)C(C)=C1.C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C>>CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O:10][CH:20](C)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)=[C:62](\C)C2=CC=CC=C2)C(C)=C1 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[N-:10]=[N+:11]=[N-:12]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N-:10][N+:11]#[N:12])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
